US08372865B2
NaH (0.57 g, 23.75 mmol) was added to a solution of 6-nitro-4H-benzo[1,4]oxazin-3-one (2.3 g, 11.85 mmol) in DMF (50 ml) at 0° C. The mixture was stirred at 0° C. for 10 minutes and then CH3I (1.5 ml, 24.04 mmol) was added. The mixture was stirred at 0° C. for one hour, then at room temperature for one hour. The mixture was partitioned between EtOAc and water. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure to give 2.5 g of 4-methyl-6-nitro-4H-benzo[1,4]oxazin-3-one as a solid, 100%.

reactant | NaH | 23.75 mmol, 0.57 g | [H-].[Na+]
reactant | 6-nitro-4H-benzo[1,4]oxazin-3-one | 11.85 mmol, 2.3 g | [N+](=O)([O-])C=1C=CC2=C(NC(CO2)=O)C1 | C8H6N2O4
reactant | CH3I | 24.04 mmol, 1.5 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-methyl-6-nitro-4H-benzo[1,4]oxazin-3-one | 2.5 g | CN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O | C9H8N2O4
